US07220757B2
N-(4,5-Dibromo-3-methylthiophen-2-ylmethyl)-N′-(1H-imidazo[4,5-c]pyridin-2-yl)propane-1,3-diamine.
Using the general method for reductive amination a mixture of N-(3H-imidazo[4,5-c]pyridin-2-yl)propane-1,3-diamine (0.037 g, 0.19 mmol) and 4,5-dibromo-3-methylthiophene-2-carbaldehyde (0.054 g, 0.19 mmol) gave the title compound as a white solid (0.034 g, 49%). m/z (ES+) 459 (100% M+).

reactant | N-(3H-imidazo[4,5-c]pyridin-2-yl)propane-1,3-diamine | 0.19 mmol, 0.037 g | N1=C(NC=2C=NC=CC21)NCCCN | C9H13N5
reactant | 4,5-dibromo-3-methylthiophene-2-carbaldehyde | 0.19 mmol, 0.054 g | BrC=1C(=C(SC1Br)C=O)C | C6H4Br2OS
product | N-(4,5-Dibromo-3-methylthiophen-2-ylmethyl)-N′-(1H-imidazo[4,5-c]pyridin-2-yl)propane-1,3-diamine | 0.034 g, 49% | BrC=1C(=C(SC1Br)CNCCCNC=1NC2=C(C=NC=C2)N1)C | C15H17Br2N5S
